US05304556
Preparation of 5-(4-chlorobenzoyl)-2-(3-pyridylmethyl)-1H-isoindole-1,3 (2H)-dione (Compound No. 45 in Table)
To a mixture of 870 mg of 4-(4-chlorobenzoyl) phthalic acid anhydride, 10 ml of acetic acid and 10 ml of toluene was added 394 mg of 3-aminomethylpyridine, and the resultant mixture was refluxed under heating for 2 hours. The reaction mixture was concentrated in vacuo, and the resultant residue was chromatographed on a column of silica gel, eluting with ethyl acetate to give 1.11 g of the titled compound.

reactant | 4-(4-chlorobenzoyl) phthalic acid anhydride | 870 mg | ClC1=CC=C(C(=O)C=2C=C3C(C(=O)OC3=O)=CC2)C=C1 | C15H7ClO4
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | 3-aminomethylpyridine | 394 mg | NCC=1C=NC=CC1 | C6H8N2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-chlorobenzoyl)-2-(3-pyridylmethyl)-1H-isoindole-1,3 (2H)-dione | 1.11 g | ClC1=CC=C(C(=O)C=2C=C3C(N(C(C3=CC2)=O)CC=2C=NC=CC2)=O)C=C1 | C21H13ClN2O3
